US09193692B2
D. 3-Bromo-2-methyl-6-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)pyridine
To a suspension of 3-bromo-2-methyl-6-(1H-1,2,4-triazol-3-yl)pyridine (96.0 g, 0.4 mol) in tetrahydrofuran (780 mL) was added 3,4-dihydro-2H-pyran (72.5 mL, 0.8 mol) and methanesulfonic acid (3.2 mL). The mixture was heated to 65° C. and the resulting yellow solution was allowed to stir at 65° C. for 6 h. The mixture was cooled to ambient temperature, quenched with triethylamine (23 mL), concentrated under reduced pressure and further dried in a high vacuum for 1 h. The resulting oil was dissolved in acetonitrile (250 mL) and the solution was added into water (750 mL) while stirring vigorously. More acetonitrile (80 mL) was added and the mixture was allowed to stir for 1 h. The resulting solids were filtered, washed with 1:4 acetonitrile/water (800 mL) and dried in a vacuum oven for 48 h to afford the product (110 g, 85% yield) as a white solid. The product was further purified by silica gel plug purification (1:1 hexanes/ethyl acetate) to give 88 g of the pure product as a white solid and 16.2 g of less pure product. MS (ESI) m/z 239.1 [M]+, 241.1 [M+2]+.

reactant | 3-bromo-2-methyl-6-(1H-1,2,4-triazol-3-yl)pyridine | 0.4 mol, 96.0 g | BrC=1C(=NC(=CC1)C1=NNC=N1)C | C8H7BrN4
reactant | 3,4-dihydro-2H-pyran | 0.8 mol, 72.5 mL | O1CCCC=C1 | C5H8O
reactant | methanesulfonic acid | 3.2 mL | CS(=O)(=O)O | CH4O3S
solvent | tetrahydrofuran | 780 mL | O1CCCC1 | C4H8O
product | 3-Bromo-2-methyl-6-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)pyridine | 110 g, 85% yield | BrC=1C(=NC(=CC1)C1=NN(C=N1)C1OCCCC1)C | C13H15BrN4O
